US04698348
A mixture of 32.9 g of 3-amino-4-(2-hydroxypropylamino)quinoline in 100 ml of triethyl orthoformate and 10 drops of formic acid was heated at 150° C. for two hours. The mixture was evaporated under vacuum, then 200 ml of water was added and the pH was adjusted to pH 2 to 3 with concentrated hydrochloric acid. The solution was basified with ammonium hydroxide, then with 50 percent sodium hydroxide solution. An oily product eventually solidified and was separated by filtration. Recrystallization from a mixture of hexane and dichloromethane gave an off-white solid 1-(2-hydroxypropyl)-1H-imidazo[4,5-c]quinoline, m.p. 171° C.

reactant | 3-amino-4-(2-hydroxypropylamino)quinoline | 32.9 g | NC=1C=NC2=CC=CC=C2C1NCC(C)O | C12H15N3O
reactant | triethyl orthoformate | 100 ml | C(OCC)(OCC)OCC | C7H16O3
catalyst | formic acid | 10 drops | C(=O)O | CH2O2
product | 1-(2-hydroxypropyl)-1H-imidazo[4,5-c]quinoline | OC(CN1C=NC=2C=NC=3C=CC=CC3C21)C | C13H13N3O
